US09328110B2
The general method described in Step 3 of Example 15 was used to cyclize ethyl 12-(3-aminoquinolin-4-ylamino)dodecanoate (30.4 g, 78.8 mmol) by reaction with trimethyl orthobutyrate (13.4 g, 90.6 mmol) to provide ethyl 12-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)dodecanoate (32.1 g) as a solid that was used directly in the next step without further purification.

reactant | ethyl 12-(3-aminoquinolin-4-ylamino)dodecanoate | 78.8 mmol, 30.4 g | NC=1C=NC2=CC=CC=C2C1NCCCCCCCCCCCC(=O)OCC | C23H35N3O2
reactant | trimethyl orthobutyrate | 90.6 mmol, 13.4 g | C(CCC)(OC)(OC)OC | C7H16O3
product | ethyl 12-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)dodecanoate | 32.1 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCCCCCCCCC(=O)OCC | C27H39N3O2
